US06982348B2
methyl 4-[(4-{(1RS,2SR)-2-[(6,7-dihydro-5H-benzo[a][7]annulen-1-ylcarbonyl)amino]-1-hydroxy-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]propyl}phenoxy)methyl]benzoate
To a solution of N-{(1RS,2SR)-2-hydroxy-2-(4-hydroxyphenyl)-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethyl}-6,7-dihydro-5H-benzo[a][7]annulene-1-carboxamide (600 mg, 1.13 mmol) in N,N-dimethylformamide (20 ml) were added potassium carbonate (470 mg, 3.40 mmol) and methyl 4-(bromomethyl)-benzoate (780 mg, 3.40 mmol), and the mixture was stirred overnight at room temperature. The reaction solution was diluted with water (100 ml) and extracted with ethyl acetate (100 ml×2). The extract was washed successively with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1-2:1). Recrystallization from ethyl acetate-hexane gave the objective substance (361 mg, 47%).

reactant | N-{(1RS,2SR)-2-hydroxy-2-(4-hydroxyphenyl)-1-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]ethyl}-6,7-dihydro-5H-benzo[a][7]annulene-1-carboxamide | 1.13 mmol, 600 mg | OC(C(CC1=CC(=CC=C1)OC(C(F)F)(F)F)NC(=O)C=1C=CC=C2C1C=CCCC2)C2=CC=C(C=C2)O | C29H27F4NO4
reactant | potassium carbonate | 3.40 mmol, 470 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 4-(bromomethyl)-benzoate | 3.40 mmol, 780 mg | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | methyl 4-[(4-{(1RS,2SR)-2-[(6,7-dihydro-5H-benzo[a][7]annulen-1-ylcarbonyl)amino]-1-hydroxy-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]propyl}phenoxy)methyl]benzoate | C1(=CC=CC2=C1C=CCCC2)C(=O)NC(C(O)C2=CC=C(OCC1=CC=C(C(=O)OC)C=C1)C=C2)CC2=CC(=CC=C2)OC(C(F)F)(F)F | C38H35F4NO6
